US07452911B2
3.64a 3-chloro-6-(4-chloro-phenyl)-pyridazine
Under an argon atmosphere a solution of 11.3 g (70.5 mmol) 4-chlorophenylboric acid in 50 mL 1,4-dioxane is added to a solution of 10.8 g (70.5 mmol) 3,6-dichloropyridazine, 10 mL (20 mmol) of a 2 M Na2CO3 solution and 600 mg (0.73 mmol) Pd(dppf)Cl2 in 150 mL 1,4-dioxane at 110° C. over 2 h. The reaction mixture is stirred for 1 h at 110° C. 100 mL water are added and the aqueous phase is extracted with 100 mL EtOAc. The organic phase is dried over Na2SO4 and the solvent is eliminated i.vac. Purification is carried out by column chromatography on silica gel (cyc/EtOAc 4:1).

reactant | 4-chlorophenylboric acid | 70.5 mmol, 11.3 g | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
reactant | 3,6-dichloropyridazine | 70.5 mmol, 10.8 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 mL | O | H2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.73 mmol, 600 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-chloro-6-(4-chloro-phenyl)-pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
